US07141575B2
A solution of 2-(2-methoxyethyl)-6-(triphenylmethoxy)methylpyridine (1.08 g, 2.64 mmol) in 4-M HCl in dioxan (10 mL, 40.0 mmol) was stirred for 4 h and concentrated in vacuo. The residue was partitioned between dichloromethane (15 mL) and saturated NaHCO3 solution (15 mL), the aqueous phase was extracted with dichloromethane (10 mL) and the combined organic phase was dried (MgSO4) and concentrated in vacuo to give 6-(2-methoxyethyl)pyridine-2-methanol. A solution of this product in dichloromethane (40 mL) at 0° C. was treated with triphenylphosphine (830 mg, 3.16 mmol) followed portion wise by carbon tetrabromide (1.31 g, 3.96 mmol), stirred for 1 h, concentrated in vacuo and purified by chromatography [SiO2; isohexane:EtOAc (4:1)] to give the title compound (303 mg, 50%) as a yellow oil; NMR δH (400 MHz, CDCl3) 7.60 (1H, t, J 7.5 Hz), 7.28 (1H, d, J 7.5 Hz), 7.13 (1H, d, J 7.5 Hz), 4.53 (2H, s), 3.76 (2H, t, J 6.5 Hz), 3.35 (3H, s) and 3.05 (2H, t, J 6.5 Hz).

reactant | 2-(2-methoxyethyl)-6-(triphenylmethoxy)methylpyridine | 2.64 mmol, 1.08 g | COCCC1=NC(=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H27NO2
reactant | dioxan | 40.0 mmol, 10 mL | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 6-(2-methoxyethyl)pyridine-2-methanol | COCCC1=CC=CC(=N1)CO | C9H13NO2
